US07855206B2
To a solution of tert-butyl [(2R,3S)-5-hydroxy-5-(hydroxymethyl)-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate (223 mg, 0.59 mmol) in tetrahydrofuran (4 mL) was added a solution of sodium periodate (143 mg, 0.67 mmol) in water (1.3 mL) and the mixture stirred for 3 hours. The mixture was concentrated and purified by flash chromatography (silica, gradient 5-20% ethyl acetate in chloroform) to yield tert-butyl [(2R,3S)-5-oxo-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate as white solid.

reactant | tert-butyl [(2R,3S)-5-hydroxy-5-(hydroxymethyl)-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate | 0.59 mmol, 223 mg | OC1(C[C@@H]([C@H](OC1)C1=C(C=C(C(=C1)F)F)F)NC(OC(C)(C)C)=O)CO | C17H22F3NO5
reactant | sodium periodate | 0.67 mmol, 143 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | water | 1.3 mL | O | H2O
product | tert-butyl [(2R,3S)-5-oxo-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate | O=C1C[C@@H]([C@H](OC1)C1=C(C=C(C(=C1)F)F)F)NC(OC(C)(C)C)=O | C16H18F3NO4
